US05496843
2) 7-Chloro-3-[p-tert-butoxycarbonylaminomethyl-o-(carboxymethyl)phenylcarbamoylmethyl]-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid
A solution of methyl 1-benzenesulfonyl-7-chloro-3-[p-tert-butoxycarbonylaminomethyl-o-(methoxycarbonylmethyl)phenylcarbamoylmethyl]-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate (300 mg, 0.414 mmol) in a mixture of THF (5 mL), MeOH (5 mL), and 1N LiOH (5 mL) was stirred for 19 h at room temperature, acidified to pH 3 with 5% KHSO4, and extracted with ethyl acetate. The organic layer was washed successively with water and brine, dried over magnesium sulfate, and concentrated. The residue was rinsed with diethyl ether and dried in vacuo to give 150 mg of the title compound (quant): 1H NMR (DMSO-d6) δ12.54 (br, 2H), 11.42 (s, 1H), 9.33 (s, 1H), 7.37 (d, 1H, J=7.9 Hz), 7.35 (s, 1H), 7.13 (d, 1H, J=7.9 Hz), 7.10 (s, 2H), 6.83 (s, 1H), 4.08 (d, 2H, J=7.9 Hz), 3.88 (m, 1H), 3.59 (d, 1H, J=16.3 Hz), 3.55 (d, 1H, J=16.3 Hz), 3.09 (mr, 1H, J=14.0 Hz), 2.81 (md, 1H, J=16.8 Hz), 2.64 (dd, 1H, J=14.0, 3.5 Hz), 2.53 (m, 1 H), 2.09 (md, 1, H, J=12.2 Hz), 1.83 (m, 1H), 1.40 (s, 9H).

reactant | methyl 1-benzenesulfonyl-7-chloro-3-[p-tert-butoxycarbonylaminomethyl-o-(methoxycarbonylmethyl)phenylcarbamoylmethyl]-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate | 0.414 mmol, 300 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=C2C=3C(=CC(=CC13)Cl)CCC2CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)CC(=O)OC)=O)C(=O)OC | C36H38ClN3O9S
reactant | MeOH | 5 mL | CO | CH4O
reactant | LiOH | 1N, 5 mL | [Li+].[OH-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-Chloro-3-[p-tert-butoxycarbonylaminomethyl-o-(carboxymethyl)phenylcarbamoylmethyl]-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid | 150 mg | ClC=1C=C2C=3C(=C(NC3C1)C(=O)O)C(CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)CC(=O)O)=O | C28H30ClN3O7
